US05852011
N-[(N,N-Dimethylamino)ethyl]-2-[N,N-bis(2-chloroethyl)amino]-5-nitrobenzamide
Triethylamine (4.5 ml; 32 mmol) was added to a solution of 2.6 g (0.76 mmol) of N-[(N,N-dimethylamino)ethyl]-2-[N,N-bis(2-hydroxyethyl)amino]-5-nitrobenzamide in 20 ml of methylene chloride, followed by cooling over an ice bath. The thus-obtained solution was added with 1.8 ml (23 mmol) of mesyl chloride, followed by stirring at room temperature for 3 hours. After the reaction mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate, magnesium sulfate was added to the organic layer to dry the same. The solvent was distilled out under reduced pressure. The residue was dissolved in 10 ml of DMF, to which 5 g of sodium chloride were added. The resulting mixture was then stirred at 150° C. for 30 minutes. After the thus-obtained mixture was cooled to room temperature, the sodium chloride was filtered off and the solvent was distilled out under reduced pressure. The residue was purified by chromatography on a silica gel column (chloroform/methanol=10/1), whereby 0.95 g of the title compound was obtained as yellow powder (yield: 33%).

reactant | Triethylamine | 32 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | N-[(N,N-dimethylamino)ethyl]-2-[N,N-bis(2-hydroxyethyl)amino]-5-nitrobenzamide | 0.76 mmol, 2.6 g | CN(C)CCNC(C1=C(C=CC(=C1)[N+](=O)[O-])N(CCO)CCO)=O | C15H24N4O5
reactant | mesyl chloride | 23 mmol, 1.8 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[(N,N-Dimethylamino)ethyl]-2-[N,N-bis(2-chloroethyl)amino]-5-nitrobenzamide | 0.95 g | CN(C)CCNC(C1=C(C=CC(=C1)[N+](=O)[O-])N(CCCl)CCCl)=O | C15H22Cl2N4O3
